*Spice netlist for Circuit: P:\circuits\rc_car.CKT
*0=0V 1=5V
V6 5 0 DC 0V
*0=0V 1=5V
V7 6 0 DC 0V
*0=0V 1=5V
V5 4 0 DC 0V
*0=0V 1=5V
V4 3 0 DC 0V
XRLY4 26 27 28 8 10 XSPDTRELAY#0
XU3 5 0 10 7 XOPTOISO
XU4 6 0 9 7 XOPTOISO
XRLY3 29 30 31 8 9 XSPDTRELAY#0
XU2 4 0 11 7 XOPTOISO
XU1 3 0 12 7 XOPTOISO
XRLY2 32 33 34 8 11 XSPDTRELAY#0
XRLY1 35 36 37 8 12 XSPDTRELAY#0
V1 8 7 DC 10V
.SAVE V(3) V(4) V(5) V(6) V(7) V(8) V(9) V(10) V(11) V(12) @v6[p] v6#branch
.SAVE @v7[p] v7#branch @v5[p] v5#branch @v4[p] v4#branch @v1[p] v1#branch
*BKGND=RGB 0 0 0
*BINARY RAW FILE

* Selected Circuit Analyses :
.TRAN 20n 5u 0 20n

* Models/Subcircuits Used:

*SPDTRELAY Generic type:relay
.SUBCKT XSPDTRELAY#0 1 2 3 4 5
L1 4 6 0.005
L2 5 7 0.005
R1 6 7 1000
BNO 8 0 V=9.6-abs(v(6,7))
SW1 2 1 8 0 SWNC ON
BNC 9 0 V=abs(v(6,7))
SW2 3 1 9 0 SWNO OFF
.MODEL SWNC SW(VT=0.1 RON=0.001 )
.MODEL SWNO SW(VT=9.408 RON=0.001 )
.ENDS XSPDTRELAY#0

*OPTOISO NPN Optoisolator pkg:DIP6 1,2,5,4
.SUBCKT XOPTOISO 1 2 5 4
VM    1 12 DC 0
D1   12  2 LED
R1   10 11 450
C1   11  0 1000PF
H1   10  0 VM 3.33E-2
G1    5  6 11 0 1
Q1    5  6  4 QNPN
.MODEL LED D(IS=2.5E-12 RS=.75 CJO=3.5E-11 N=2)
.MODEL QNPN NPN(IS=3.33E-11 NF=1.35 CJC=4.74E-11 CJE=167E-12 TF=9.23E-10 TR=1.48E-7 BF=150 BR=10 IKF=.1 VAF=100
.ENDS XOPTOISO
.END
